US05298652
A mixture of 0.60 g of N-[5-(octadecyloxy)-2-(phenylmethoxy) benzoyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester and 0.20 g of 10% palladium on carbon in 20 ml of THF was stirred under a hydrogen atmosphere at room temperature for 23 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was triturated with ether to give 0.27 g (68% yield, mp 128°-132°) of N-(carboxymethyl)-N-[2-hydroxy-5-(octadecyloxy)benzoyl]glycine.

reactant | N-[5-(octadecyloxy)-2-(phenylmethoxy) benzoyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 0.60 g | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O)=O | C50H65NO7
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[2-hydroxy-5-(octadecyloxy)benzoyl]glycine | 0.27 g, 68% yield | C(=O)(O)CN(CC(=O)O)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C29H47NO7
